US07700641B2
A. Synthesis of 7-fluoro-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1H-indole-2,3-dione
Following the procedure as described in PREPARATION 1A, and making tnon-critical variations to replace 4-bromoindole with 7-fluoroisatin, and 1-bromopentane with 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (34%): MS (ES+) m/z 336.2 (M+23).

reactant | 4-bromoindole | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 7-fluoroisatin | FC=1C=CC=C2C(C(NC12)=O)=O | C8H4FNO2
reactant | 1-bromopentane | BrCCCCC | C5H11Br
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 7-fluoro-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1H-indole-2,3-dione | FC=1C=CC=C2C(C(N(C12)CC=1OC(=CC1)C(F)(F)F)=O)=O | C14H7F4NO3
